US09120785B2
Into a flask were added butyl diadamantyl phosphine (0.133 g, 0.37 mmol), palladium(II) acetate (0.04 g, 2.2 mmol), potassium carbonate (0.77 g, 5.6 mmol), pivalic acid (0.23 g, 2.2 mmol), butyl trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexanecarboxylate (0.69 g, 60.0 mmol), and N-(6-bromo-4-methylpyridine-2-yl)-5-fluoro-4-methylpyridine-2-amine (0.55 g, 1.86 mmol) followed by nitrogen sparged dimethyl acetamide (4.4 mL). The slurry was evacuated and refilled with nitrogen three times and then slowly heated to 130° C. for 15 hours. The slurry was cooled to 35° C. and diluted with ethyl acetate (100 mL). The slurry was then filtered through CELITE, washed with 10% aqueous NaCl (3×100 mL) and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (ethyl acetate/hexanes) to obtain racemic butyl trans-4-[1-(5-{6-[(5-fluoro-4-methylpyridine-2-yl)amino]-4-methylpyridine-2-yl}-1,3-thiazol-2-yl)-1-hydroxyethyl]cyclohexanecarboxylate as a foam. 1H NMR (600 MHz, DMSO-d6) δ 9.62 (s, 1H), 8.21 (s, 1H), 8.12 (d, J=5.8 Hz, 1H), 8.08 (s, 1H), 7.21 (s, 1H), 7.04 (s, 1H), 5.79 (s, 1H), 3.93 (t, J=6.5 Hz, 2H), 2.29 (s, 3H), 2.25 (s, 3H), 2.14-2.05 (m, 1H), 1.93-1.80 (m, 3H), 1.65-1.60 (m, 1H), 1.53-1.47 (m, 3H), 1.45 (s, 3H), 1.31-1.16 (m, 5H), 1.08-0.99 (m, 1H), 0.83 (t, J=7.4 Hz, 3H).

reactant | butyl diadamantyl phosphine | 0.37 mmol, 0.133 g | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | potassium carbonate | 5.6 mmol, 0.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | pivalic acid | 2.2 mmol, 0.23 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | butyl trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexanecarboxylate | 60.0 mmol, 0.69 g | OC(C)(C=1SC=CN1)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C16H25NO3S
reactant | N-(6-bromo-4-methylpyridine-2-yl)-5-fluoro-4-methylpyridine-2-amine | 1.86 mmol, 0.55 g | BrC1=CC(=CC(=N1)NC1=NC=C(C(=C1)C)F)C | C12H11BrFN3
catalyst | palladium(II) acetate | 2.2 mmol, 0.04 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | racemic butyl trans-4-[1-(5-{6-[(5-fluoro-4-methylpyridine-2-yl)amino]-4-methylpyridine-2-yl}-1,3-thiazol-2-yl)-1-hydroxyethyl]cyclohexanecarboxylate | FC=1C(=CC(=NC1)NC1=CC(=CC(=N1)C1=CN=C(S1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OCCCC)C)C | C28H35FN4O3S
